US05677321
6-Nitrobenzothiazole
To a 30 mL solution of 1:1 mixture of HNO3 --H2SO4 was added benzothiazole (7.0 mL, 53 mmol) slowly over 1 h period at -25° C. and resulting solution was stirred for 12 h. Reaction temperature was allowed to warm up to 25° C. The reaction mixture was poured into ice water to produce a yellow precipitation which was subjected to column chromatography (CHCl3, neat) to yield 7.3 g (41 mmol, 79%) of the desired product.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | benzothiazole | 53 mmol, 7.0 mL | S1C=NC2=C1C=CC=C2 | C7H5NS
product | 6-Nitrobenzothiazole | 41 mmol, 7.3 g, 79% | [N+](=O)([O-])C1=CC2=C(N=CS2)C=C1 | C7H4N2O2S
